data/rdb19/train.csv
rxn,smiles,ea
4643,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][C:19]([O:18][C:17]([H:21])([H:22])[H:23])([C:20]([H:25])[H:26])[H:24],45.74644512089435
988,[C:14]([C:15](=[C:16]([H:21])[H:22])[C:17]([H:23])([H:24])[H:25])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:15](=[C:16]([H:21])[H:22])[C:17]([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([H:4])([H:5])[C:14]([H:18])([H:19])[H:20])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],60.15629509353312
1056,[C:14]([C:15]([C:16]([C:17]([H:30])([H:31])[H:32])([c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:15]([C:16]([C:17]([H:30])([H:31])[H:32])([c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:29])([H:27])[H:28].[C:1]([C:2]([C:3]([H:4])([H:5])[C:14]([H:24])([H:25])[H:26])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],57.93651564326137
832,[C:19]([O:20][C:21]([C:22]([H:30])([H:31])[H:32])([C:23]([H:24])[H:25])[H:29])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([O:20][C:21]([C:22]([H:30])([H:31])[H:32])=[C:23]([H:24])[H:25])([H:26])([H:27])[H:28].[C:1]([H:8])([H:9])[H:10].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])([H:12])[H:29],84.2713169233175
4730,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1]([H:2])([H:3])([H:4])[C:7]([C:6]([C:5]([H:15])([H:16])[H:17])([H:18])[H:19])([C:8]([H:21])([H:22])[H:23])[H:20].[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28],71.33544319414068
733,[C:19]([C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])([H:13])[C:20]([C:19]([H:23])([H:24])[H:25])([H:21])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])[H:16],63.75465427263407
4494,[C:13]([C:14]([C:15]([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[C:15]([C:14]([C:13]([H:23])([H:24])[H:25])([H:26])[H:27])([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32].[C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12],68.20414412446553
1285,[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13]#[N:14])([H:15])([H:16])[H:17].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:7][C:11]([C:10]([H:15])([H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[C:13]#[N:14].[O:1]([C:2](=[O:3])[C:4]=[C:5]([H:8])[H:9])[H:6],33.37371741398238
1620,[C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:15]([H:22])([H:23])[H:24])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11].[O:16][C:17](=[O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29],45.608046047971584
4367,[C:16]([C:17]([C:18]([H:19])[H:20])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[H:20])[N:21]([C:22](=[O:23])[H:29])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])([H:12])[H:27])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],26.86810981988674
1688,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:19]1([H:27])[C:18]([H:26])=[C:17]([C:16](=[C:15]([H:23])[H:24])[H:25])[C:22]([H:30])=[C:21]([H:29])[C:20]1[H:28])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],20.353542071999986
